US07084164B2
3-Biphenyl-4-yl-5-chloromethyl-4-(2-fluorophenyl)-4H-1,2,4-triazole
[5-Biphenyl-4-yl-4-(2-fluorophenyl)-4H-1,2,4-triazol-3-yl]methanol (1.81 g) was suspended in toluene (25 ml), followed by addition of thionyl chloride (1.5 ml) and chloroform (25 ml), and stirred at 60° C. for 5 hours. After the reaction solution was concentrated under reduced pressure, ethyl acetate was added to the reaction solution, which was washed with saturated aqueous sodium hydrogen carbonate solution. After the organic layer was dried over anhydrous magnesium sulfate, the solvent was evaporated under reduced pressure. The resulting white solid was washed with a mixture solution of n-hexane and ethyl acetate, to afford the entitled compound as white solid (1.54 g, 81%). The physico-chemical values are as follows.

reactant | [5-Biphenyl-4-yl-4-(2-fluorophenyl)-4H-1,2,4-triazol-3-yl]methanol | 1.81 g | C1(=CC=C(C=C1)C=1N(C(=NN1)CO)C1=C(C=CC=C1)F)C1=CC=CC=C1 | C21H16FN3O
reactant | thionyl chloride | 1.5 ml | S(=O)(Cl)Cl | Cl2OS
reactant | chloroform | 25 ml | C(Cl)(Cl)Cl | CHCl3
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
product | 3-Biphenyl-4-yl-5-chloromethyl-4-(2-fluorophenyl)-4H-1,2,4-triazole | 1.54 g, 81% | C1(=CC=C(C=C1)C1=NN=C(N1C1=C(C=CC=C1)F)CCl)C1=CC=CC=C1 | C21H15ClFN3
